US09353081B2
[A] (rac)-4-Bromo-5,6,7,8-tetrahydro-isoquinolin-8-ol
A suspension of 4-bromo-6,7-dihydroisoquinolin-8(5H)-one (intermediate A-2 [C]) (2.135 g, 9.44 mmol) in MeOH (18.9 mL) was cooled to 0° C. and treated with NaBH4 (357 mg, 9.44 mmol) in 5 portions over 30 min. The reaction was stirred for ¾ h at 0° C., then AcOH was added dropwise until a pH ˜5-6 was obtained and the reaction mixture was evaporated. The residue was diluted with water and poured into aq. sat. NaHCO3-solution, then extracted with EtOAc (3×). The organic layers are washed once with aq. sat. NaHCO3 and aq. 10% NaCl solution, dried over Na2SO4 and concentrated in vacuo. The residue was precipitated with CH2Cl2/n-pentane to afford the title compound (1.98 g, 92%) as dark brown viscous oil. MS: 227 (M+, 1Br).

reactant | 4-bromo-6,7-dihydroisoquinolin-8(5H)-one | 9.44 mmol, 2.135 g | BrC1=CN=CC=2C(CCCC12)=O | C9H8BrNO
reactant | NaBH4 | 9.44 mmol, 357 mg | [BH4-].[Na+]
reactant | AcOH | CC(=O)O | C2H4O2
solvent | MeOH | 18.9 mL | CO | CH4O
product | (rac)-4-Bromo-5,6,7,8-tetrahydro-isoquinolin-8-ol | 1.98 g, 92% | BrC1=CN=CC=2C(CCCC12)O | C9H10BrNO
